US06030972
(a) 2-Methoxy-4-methylbenzonitrile
10.7 g (78.6 mmol) of 4-methylsalicylaldehyde (J. C. S. Perkin I (1980) 1862) were methylated with 5.8 ml of MeI in the presence of 13 g of K2CO3 in 40 ml of DMF. The reaction mixture was poured into ice-water, and the product (11.5 g) was extracted with ether. The aldehyde was converted into the nitrile by a method similar to that in Synthesis (1978) 11. 1H-NMR (DMSO-d6, δ in ppm): 7.60 (d, 1H), 7.05 (s, 1H), 6.90 (d, 1H), 3.90 (s, 3H), 2.40 (s, 3H)

reactant | 4-methylsalicylaldehyde | 78.6 mmol, 10.7 g | CC=1C=C(C(C=O)=CC1)O | C8H8O2
reactant | MeI | 5.8 ml | CI | CH3I
reactant | K2CO3 | 13 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-Methoxy-4-methylbenzonitrile | COC1=C(C#N)C=CC(=C1)C | C9H9NO
